US03975384
6-Amino-2-methylthio-5-nitro-4-(1-oxido-thiomorpholino)pyrimidine
3.08 gm (0.014 mol) of 4-chloro-6-amino-2-methylthio-5-nitro-pyrimidine were dissolved in 50 ml of acetone, and a solution of 3.2 gm (0.027 mol) of thiomorpholine-1-oxide in 20 ml of acetone was added dropwise at room temperature, while stirring. After stirring the mixture for 1.5 hours more, ice was added to the reaction mixture, and the yellow precipitate formed thereby was suction-filtered off and recrystallized from ethanol. Yield: 78.2% of theory; m.p. 239°-242°C.

reactant | 4-chloro-6-amino-2-methylthio-5-nitro-pyrimidine | 0.014 mol, 3.08 gm | ClC1=NC(=NC(=C1[N+](=O)[O-])N)SC | C5H5ClN4O2S
reactant | thiomorpholine-1-oxide | 0.027 mol, 3.2 gm | N1CCS(CC1)=O | C4H9NOS
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 6-Amino-2-methylthio-5-nitro-4-(1-oxido-thiomorpholino)pyrimidine | Yield: 78.2% | NC1=C(C(=NC(=N1)SC)N1CCS(CC1)=O)[N+](=O)[O-] | C9H13N5O3S2
